US06559145B2
N-(4-Chlorobenzyl)-4-methyl-2-(morpholin-4-ylmethyl)-7-oxo-4,7-dihydro[1,3]-thiazolo[5,4-b]pyridine-6-carboxamide [BM.8]
A mixture of ethyl 4-methyl-2-(morpholin-4-ylmethyl)-7-oxo-4,7-dihydro[1,3]-thiazolo[5,4-b]pyridine-6-carboxylate (Preparation 30, 105 mg) and 4-chlorobenzyl-amine (1 mL) is heated to 190° C. for 40 min. and then allowed to cool to ambient temperature. The solvent is removed in vacuo. The mixture is diluted with ether to precipitate 89 mg (66%) of the title compound as a tan solid. Physical characteristics: 1H NMR (DMSO-d6) δ 2.59, 3.64, 3.91, 4.00, 4.56, 7.33-7.36, 8.75, 10.59; IR (diffuse reflectance) 2857, 2809, 1662, 1599, 1569, 1550, 1531, 1526, 1517, 1492, 1346, 1296, 1116, 797, 732 cm−1. Anal. Found: C, 55.50; H, 4.98; N, 12.00.

reactant | ethyl 4-methyl-2-(morpholin-4-ylmethyl)-7-oxo-4,7-dihydro[1,3]-thiazolo[5,4-b]pyridine-6-carboxylate | 105 mg | CN1C2=C(C(C(=C1)C(=O)OCC)=O)N=C(S2)CN2CCOCC2 | C15H19N3O4S
reactant | 4-chlorobenzyl-amine | 1 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
product | N-(4-Chlorobenzyl)-4-methyl-2-(morpholin-4-ylmethyl)-7-oxo-4,7-dihydro[1,3]-thiazolo[5,4-b]pyridine-6-carboxamide | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)SC(=N3)CN3CCOCC3)=O)C=C1 | C20H21ClN4O3S
